US05618821
To a suspension of 0.81 g (3.9 mmol) of 4-(5-methyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenol, 0.8 g (1.2 eq) of 2-methoxy-5-(3-hydroxypropyl)-pyridine, 1.4 g (1.2 eq) of triphenylphosphine in 70 ml of methylene chloride under nitrogen at 5° C. was added in portions 0.88 g (1.2 eq) of DEAD. The mixture was concentrated in vacuo, the residue was triturated with ether, filtered, and the crude product was purified by MPLC (50 id,Kieselgel 60 column, hexane/ethyl acetate, 2:1) and recrystallization from isopropyl acetate/hexane to afford 1 g (71.4%) of 2-methoxy-5-[3-[4-(5-methyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenoxy]-propyl]-pyridine, as a white powder, m.p. 71°-73° C.

reactant | 4-(5-methyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenol | 3.9 mmol, 0.81 g | CC1=NC(=NO1)C1=CC(=C(C(=C1)C)O)C | C11H12N2O2
reactant | 2-methoxy-5-(3-hydroxypropyl)-pyridine | 0.8 g, 1.2 eq | COC1=NC=C(C=C1)CCCO | C9H13NO2
reactant | triphenylphosphine | 1.4 g, 1.2 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 0.88 g, 1.2 eq | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | 2-methoxy-5-[3-[4-(5-methyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenoxy]-propyl]-pyridine | 1 g, 71.4% | COC1=NC=C(C=C1)CCCOC1=C(C=C(C=C1C)C1=NOC(=N1)C)C | C20H23N3O3
